US08629150B2
tert-butyl (3-(4-((6-((4-(3-bromopropoxy)benzyl)amino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)benzamido)-2,2-dimethylpropyl)carbamate (100 mg, 0.14 mmol) was stirred in TFA/DCM (1:1) solution (2 mL) for 15 mins. The solution was concentrated under vacuum to give N-(3-amino-2,2-dimethylpropyl)-4-((6-((4-(3-bromopropoxy)benzyl)amino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)benzamide which was carried to the next step without purification.

reactant | tert-butyl (3-(4-((6-((4-(3-bromopropoxy)benzyl)amino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)benzamido)-2,2-dimethylpropyl)carbamate | 0.14 mmol, 100 mg | BrCCCOC1=CC=C(CNC2=CC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)NCC(CNC(OC(C)(C)C)=O)(C)C)C=C2)C=C1 | C33H42BrF3N6O5
solvent | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-(3-amino-2,2-dimethylpropyl)-4-((6-((4-(3-bromopropoxy)benzyl)amino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)benzamide | NCC(CNC(C1=CC=C(C=C1)NC1=NC(=NC(=C1)NCC1=CC=C(C=C1)OCCCBr)OCC(F)(F)F)=O)(C)C | C28H34BrF3N6O3
